US04256640
A solution of 4-aminomethyl-2,3,4,9-tetrahydrothiopyrano[2,3-b]indole (1.0 g) in acetone (10 ml) is kept at room temperature for 30 minutes and then heated at 50° C. for 5 minutes. The solution is cooled with ice. The colorless precipitate is collected by filtration to give 4-isopropylideneaminomethyl-2,3,4,9-tetrahydrothiopyrano[2,3-b]indole (1.07 g) melting at 173° C. (decomp.).

reactant | 4-aminomethyl-2,3,4,9-tetrahydrothiopyrano[2,3-b]indole | 1.0 g | NCC1CCSC=2NC3=CC=CC=C3C21 | C12H14N2S
reactant | acetone | 10 ml | CC(=O)C | C3H6O
product | 4-isopropylideneaminomethyl-2,3,4,9-tetrahydrothiopyrano[2,3-b]indole | 1.07 g | C(C)(C)=NCC1CCSC=2NC3=CC=CC=C3C21 | C15H18N2S
